US08748440B2
4-tert-butyl-N-methyl-N-[1-(3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl]benzamide;
In a similar manner as described above in Paragraph A, but replacing 3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one with 3-(4-fluorophenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one and 4-tert-butylbenzoyl chloride with the appropriate starting material, the following compounds were made:

reactant | 3-(4-fluorophenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | FC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)NC | C17H16FN3O
reactant | 4-tert-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 4-tert-butyl-N-methyl-N-[1-(3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl]benzamide | C(C)(C)(C)C1=CC=C(C(=O)N(C(C)C2=NC3=CC=CC=C3C(N2C)=O)C)C=C1 | C23H27N3O2
